US04359332
To a solution of n-butylamine (3.1 g, 0.0423 mole) in 40 ml. of ether was added dropwise with stirring ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (3.3 g, 0.01 mole) in 50 ml. of ether. The reaction mixture was stirred for 21/2 hours, then filtered and the filtrate was concentrated in vacuo to give a light yellow viscous oil. This oil was dissolved in petroleum ether, washed three times with water, dried over MgSO4, and concentrated in vacuo to give 3.3 g of ethyl N-trifluoroacetyl-N-(dibutylaminophosphonomethyl)glycinate, ND =1.4429.

reactant | n-butylamine | 0.0423 mole, 3.1 g | C(CCC)N | C4H11N
reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.01 mole, 3.3 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
solvent | ether | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(dibutylaminophosphonomethyl)glycinate | 3.3 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(ON(CCCC)CCCC)O)(F)F | C15H28F3N2O6P
